US04988814
To a suspension of t-butylamine hydrochloride (prepared by treatment of an Et2O solution of t-butylamine (2.7 mL, 1.9 g, 0.026 mol) with HCl) in a solution of 3-bromopropionic acid chloride (4.47 g, 0.0261 mol) with CH2Cl2 (145 mL) was added N,N-diisopropylethylamine (9.1 mL, 6.8 g, 0.052 mol) over 10-15 minutes at room temperature. The solution was stirred at room temperature for 2.5-3 hours. A few mL's of N,N-diisopropylethylamine were added until the solution became homogeneous. The solution was washed twice with dilute HCl and once with H2O, dried with MgSO4 and evaporated to provide 3.34 g of N-tert-butyl 3-bromopropanamide and N-tert-butyl acrylamide (approximately 36%/64% by weight). The reaction mixture was taken up in EtOH (200 mL), and to the solution of amides was added 1-(2-pyrimidinyl)piperazine dihydrochloride (6.82 g, 0.0288 mol) and sodium acetate (4.72 g, 0.0575 mol). The mixture was refluxed for 8 days. The solvent was evaporated. The residue was partitioned between CH2Cl2 and aqueous Na2CO3. The CH2Cl2 phase was washed with aqueous NaCl and dried with MgSO4. Evaporation of the CH2Cl2 gave 5.61 of crude compound which was purified by HPLC to give 4.13 g of free base. Treatment in EtOH with HCl gave the title compound, 4.48 g (46%), mp 220°-222° C.

reactant | t-butylamine hydrochloride | Cl.C(C)(C)(C)N
reactant | t-butylamine | 0.026 mol, 2.7 mL, 1.9 g | C(C)(C)(C)N | C4H11N
reactant | HCl | Cl | ClH
reactant | 3-bromopropionic acid chloride | 0.0261 mol, 4.47 g | BrCCC(=O)Cl | C3H4BrClO
reactant | N,N-diisopropylethylamine | 0.052 mol, 9.1 mL, 6.8 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 145 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | N-tert-butyl 3-bromopropanamide | 3.34 g | C(C)(C)(C)NC(CCBr)=O | C7H14BrNO
